US06353010B1
5-Methoxyquinoxaline
Glyoxal sodium bisulphite hydrate (10.0 g) in water (80 ml) was warmed to 60° C. then a solution of 2,3-diaminoanisole (3.40 g) in ethanol (40 ml) was added. The stirred mixture was then heated to 80° C. for 1 h before addition of concentrated hydrochloric acid (6 drops). Heating was continued for 1 h. It was allowed to cool overnight, concentrated in vacuo and poured into aqueous potassium carbonate (40 ml). Ethyl acetate (3×100 ml) extracts were washed with water (100 ml) and saturated brine (50 ml) then dried over anhydrous magnesium sulphate, filtered and evaporated in vacuo to afford the title compound as a yellow solid (3.07 g).

reactant | Glyoxal sodium bisulphite hydrate | 10.0 g | O.S([O-])(O)=O.[Na+].C(=O)C=O
reactant | 2,3-diaminoanisole | 3.40 g | NC1=C(C=CC=C1N)OC | C7H10N2O
solvent | water | 80 ml | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | hydrochloric acid | 6 drops | Cl | ClH
product | 5-Methoxyquinoxaline | 3.07 g | COC1=C2N=CC=NC2=CC=C1 | C9H8N2O
